US05663154
2-Amino-6-methylpropylamino-9H-purine (0.54 g, 2.6 mmoles) and 2',3'-dideoxy-3'-fluorouridine (0.50 g, 2.2 mmoles) were suspended in potassium phosphate buffer, (50 ml, 10 mM), pH 7.0, containing 0.04% potassium azide. Purine nucleoside phosphorylase (1120 I.U.) and thymidine phosphorylase (10,000 I.U.) (Krenitsky et al., Biochemistry, 20, 3615 (1981) and U.S. Pat. No. 4,381,344) immobilized on DEAE cellulose was added to the reaction and the suspension was stirred at 45° C. After 8 days, MeOH (170 ml) was added to the reaction. The reaction was applied to a column containing AG1-X2 (OH- form, 2.5×10 cm) and eluted with MeOH. Fractions containing product were pooled, concentrated, and flash chromatographed on silica gel (2.5×20 cm) with dichloromethane:acetone (92:8). Solvent was removed and lyophilization yielded 2-amino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-(methylpropylamino)-9H-purine (0.40 g, 56%): mp 80°-84° C.;

reactant | 2-Amino-6-methylpropylamino-9H-purine | 2.6 mmoles, 0.54 g | NC1=NC(=C2N=CN(C2=N1)NCCC)C | C9H14N6
reactant | 2',3'-dideoxy-3'-fluorouridine | 2.2 mmoles, 0.50 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | MeOH | 170 ml | CO | CH4O
product | 2-amino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-(methylpropylamino)-9H-purine | 0.40 g, 56% | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)N(CCC)C | C14H21FN6O2
